US04103084
2-(2-t-Butoxycarbonylprop-2-yloxyimino)-2-(thien-2-yl) acetic acid (syn isomer)
The title compound was prepared from 2-hydroxyimino-2-(thien-2-yl)acetic acid (syn isomer) and t-butyl 2-bromo-2-methylpropionate, in a similar manner to that described for Preparation 5, in 78% yield as a colourless oil, and was characterised as the N-benzyl-2-phenylethylammonium salt, m.p. 201.3°-201.9° (from ethanol).

reactant | 2-hydroxyimino-2-(thien-2-yl)acetic acid | ON=C(C(=O)O)C=1SC=CC1 | C6H5NO3S
reactant | t-butyl 2-bromo-2-methylpropionate | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
reactant | N-benzyl-2-phenylethylammonium | C(C1=CC=CC=C1)[NH2+]CCC1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-t-Butoxycarbonylprop-2-yloxyimino)-2-(thien-2-yl) acetic acid | 78% yield | C(C)(C)(C)OC(=O)C(C)(C)ON=C(C(=O)O)C=1SC=CC1 | C14H19NO5S
